US05447943
To a suspension of 2-(1-methyl-2-oxo-propyloxy)-5-iodobenzyltriphenylphosphonium bromide (0.71 g, 0.00108 mol) in absolute ethanol (3 ml) was added dropwise at room temperature a solution of sodium (0.025 g) in absolute ethanol (1 ml). After twelve hours at room temperature, diethyl ether and water were added. The organic phase was separated, dried and evaporated. The residue was chromatographed on silica gel, eluting with a mixture of dichloromethane/heptane (50/50) to give 0.29 g (85%) of 6-iodo-2,2,3-trimethyl-1(2H)-benzopyran, as an oil, 1NMR (CDCl3): δ1.4 (s, 6H), 1.8 (s, 3H), 6.0 (s, 1H), 6.55 (d, 1H), 7.2 (d, 1H), 7.35 (d, 1H).

reactant | 2-(1-methyl-2-oxo-propyloxy)-5-iodobenzyltriphenylphosphonium bromide | 0.00108 mol, 0.71 g | [Br-].CC(C(C)=O)OC1=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C(C=C1)I
reactant | sodium | 0.025 g | [Na] | Na
reactant | diethyl ether | C(C)OCC | C4H10O
reactant | water | O | H2O
solvent | ethanol | 3 ml | C(C)O | C2H6O
solvent | ethanol | 1 ml | C(C)O | C2H6O
product | 6-iodo-2,2,3-trimethyl-1(2H)-benzopyran | 0.29 g, 85% | IC=1C=CC2=C(C=C(C(O2)(C)C)C)C1 | C12H13IO
